US05171752
Bis(4-fluorophenyl)methanol was refluxed in toluene with an equimolar amount of bromoethanol in presence of a catalytic amount of p-toluenesulphonic acid. The mixture was refluxed for 12 hrs. in a Dean-Stark apparatus. The solvent was evaporated and the residue was dissolved in ether, washed with water (three times) and brine (three times). The organic layer was dried with sodium sulfate, filtered, concentrated and the residue was purified by distillation to obtain in 80% yield 1-bromo-2-[bis(4-fluorophenyl)methoxy]ethane, b.p. 170° C. at 0.1 mm Hg.

reactant | Bis(4-fluorophenyl)methanol | FC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)F | C13H10F2O
reactant | bromoethanol | BrC(C)O | C2H5BrO
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-bromo-2-[bis(4-fluorophenyl)methoxy]ethane | 80% yield | BrCCOC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C15H13BrF2O
